US07175854B2
abiraterone;
ancestim; diciferron; epoetin alfa; epoetin beta; epoetin epsilon; epoetin gamma; epoetin omega; ferrous sulfate, FK-352; folic acid; gleptoferron; glutathione monoisopropyl ester; leucovorin calcium; tucaresol; TYB-5220; velaresol;

reactant | epoetin | CCCCC1=NC(=C(N1CC2=CC=C(C=C2)C3=CC=CC=C3C4=NN=N[N-]4)CO)Cl.[K+]
reactant | FK-352 | C1CCN([C@H](C1)CC(=O)O)C(=O)/C=C/C2=C3C=CC=CN3N=C2C4=CC=CC=C4 | C23H23N3O3
reactant | folic acid | C(CC[C@@H](C(=O)O)NC(=O)C1=CC=C(NCC2=CN=C3N=C(N)NC(=O)C3=N2)C=C1)(=O)O | C19H19N7O6
reactant | glutathione monoisopropyl ester | CC(C)OC(=O)CNC(=O)[C@H](CS)NC(=O)CC[C@@H](C(=O)O)N | C13H23N3O6S
reactant | leucovorin calcium | C1=CC(=CC=C1C(=O)N[C@@H](CCC(=O)[O-])C(=O)[O-])NCC2CNC3=C(C(=NC(=N3)N)O)N2C=O.[Ca+2]
reactant | tucaresol | C=1C=C(C(=C(C1)OCC=2C=CC(=CC2)C(=O)O)C=O)O | C15H12O5
reactant | velaresol | C=1C=C(C(=C(C1)OCCCCC(=O)O)C=O)O | C12H14O5
catalyst | diciferron | CC(CC(=C1C=CC=C1)[O-])CC(C)(C)C.[CH-]1C=CC=C1.[Fe+2]
catalyst | gleptoferron | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OCC(C(C(C(C(C(=O)O)O)O)O)O)O)O)O)O)O.O[O-].[Fe]
product | abiraterone | C[C@]12CC[C@@H](CC1=CC[C@@H]3[C@@H]2CC[C@]4([C@H]3CC=C4C=5C=CC=NC5)C)O | C24H31NO
